US05990142
16F Ethyl 8-[6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylate
Following the process described in example 1 (point A), starting from N-(3-acetyl-2-hydroxyphenyl)-6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide and diethyl oxalate, the title compound was prepared, which was purified by chromatography through a silica gel column, eluting with petroleum ether:chloroform, 4:6 (75% yield).

reactant | N-(3-acetyl-2-hydroxyphenyl)-6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamide | C(C)(=O)C=1C(=C(C=CC1)NC(=O)C=1C(=CC2=C(CC(O2)CCCC2=CC=CC=C2)C1)Cl)O | C26H24ClNO4
reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl 8-[6-chloro-2-(3-phenylpropyl)-2,3-dihydrobenzofuran-5-carboxamido]-4-oxo-4H-1-benzopyran-2-carboxylate | 75% yield | ClC1=CC2=C(CC(O2)CCCC2=CC=CC=C2)C=C1C(=O)NC1=CC=CC=2C(C=C(OC21)C(=O)OCC)=O | C30H26ClNO6
